US07402672B2
3-(2-Fluorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-8
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2-fluorophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-8 as an ivory colored solid. 1H NMR (DMSO-d,) δ 12.57 (bs, 1H), 8.45 (dd, 1H, J=1.2, 4.2 Hz), 8.15 (bs, 1H), 7.90 (dd, 1H, J=1.2, 8.1 Hz) overlapping with 7.84 (bs, 1H), 7.31 (dd, 1H, J=4.5, 8.2 Hz), 7.20 (m, 2H), 6.98 (m, 1H), 6.69 (m, 1H). MS Obs 288.2 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2-fluorophenyl)disulfide | 1.1 equiv | FC1=C(C=CC=C1)SSC1=C(C=CC=C1)F | C12H8F2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-Fluorophenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | FC1=C(C=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H10FN3OS
